US05047411
A mixture of 4-bromo-1-(4-nitrophenyl)but-1-en-3-one (5.7 g) and 2-amino-4-methylpyridine (6.8 g) in acetonitrile (50 ml) was stirred under reflux for 1.5 hours. The precipitate was collected by filtration and washed with acetonitrile to give 2-[2-(4-nitrophenyl)vinyl]-7-methylimidazo[1,2-a]pyridine (3.29 g).

reactant | 4-bromo-1-(4-nitrophenyl)but-1-en-3-one | 5.7 g | BrCC(C=CC1=CC=C(C=C1)[N+](=O)[O-])=O | C10H8BrNO3
reactant | 2-amino-4-methylpyridine | 6.8 g | NC1=NC=CC(=C1)C | C6H8N2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 2-[2-(4-nitrophenyl)vinyl]-7-methylimidazo[1,2-a]pyridine | 3.29 g | [N+](=O)([O-])C1=CC=C(C=C1)C=CC=1N=C2N(C=CC(=C2)C)C1 | C16H13N3O2
